US04414216
A mixture of 5.0 g of trans-2-(4-fluorophenyl)-4-(iodomethyl)tetrahydrofuran, 4.2 g of 1-(4-piperidyl)benzimidazolin-2-one and 2.5 g of potassium carbonate in 80 ml of dimethylformamide is heated with stirring at 60°-70° C. for 42 hours. The reaction mixture is then poured into water and extracted with ethyl acetate. The extract is washed three times with water and dried over magnesium sulfate, and the solvent is distilled off under reduced pressure. Isopropyl ether is added to the residue, and the crystals precipitated are collected by filtration and recrystallized from ethanol to give 5.1 g of 1-[1-(trans-2-(4-fluorophenyl)-tetrahydro-4-furylmethyl)-4-piperidyl]benzimidazolin-2-one as colorless needles, melting at 154°-155° C. The corresponding hydrochloride melts at 239° C. with decomposition.

reactant | trans-2-(4-fluorophenyl)-4-(iodomethyl)tetrahydrofuran | 5.0 g | FC1=CC=C(C=C1)[C@@H]1OC[C@H](C1)CI | C11H12FIO
reactant | 1-(4-piperidyl)benzimidazolin-2-one | 4.2 g | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 1-[1-(trans-2-(4-fluorophenyl)-tetrahydro-4-furylmethyl)-4-piperidyl]benzimidazolin-2-one | 5.1 g | FC1=CC=C(C=C1)[C@@H]1OC[C@H](C1)CN1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C23H26FN3O2
